US07902187B2
6-chloro-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one.
Pale yellow solid. Synthesized from 2-(2-amino-5-fluorophenylamino)-6-chloro-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one (160 mg, 0.42 mmol) in anhydrous methanol (10 mL), using anhydrous trimethylorthoformate (1 mL) and methane sulfonic acid (5 drops) with stirring under Ar at room temperature for 2 h (HPLC monitoring). The solvent was removed in vacuo and the residue purified by column chromatography (silica gel, gradual elution with 2% methanol in methylene chloride to 10% methanol in methylene chloride) to afford the desired product (120 mg, 73% yield). 1H NMR (300 MHz, CDCl3+CD3OD) δ, ppm: 9.03 (s, 1H), 8.40-8.20 (m, 1H), 7.82-7.72 (m, 1H), 7.17-7.11 (m, 1H), 4.72-4.58 (m, 1H), 4.28-4.13 (m, 2H), 3.70-3.62 (m, 2H), 2.90-2.72 (m, 2H), 1.90-1.78 (m, 2H); MS (EI) m/z 389.2 (MH)+.

reactant | 2-(2-amino-5-fluorophenylamino)-6-chloro-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one | 0.42 mmol, 160 mg | NC1=C(C=C(C=C1)F)NC1=NC(=C2NC(N(C2=N1)C1CCOCC1)=O)Cl | C16H16ClFN6O2
reactant | trimethylorthoformate | 1 mL | COC(OC)OC | C4H10O3
solvent | methanol | 10 mL | CO | CH4O
catalyst | methane sulfonic acid | 5 drops | CS(=O)(=O)O | CH4O3S
product | 6-chloro-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one | 120 mg, 73% yield | ClC1=C2NC(N(C2=NC(=N1)N1C=NC2=C1C=C(C=C2)F)C2CCOCC2)=O | C17H14ClFN6O2
